US08536157B2
A solution of 3-fluoro-4-methoxyacetophenone (0.063 g, 0.377 mmol), O-(3-fluorobenzyl)hydroxylamine hydrochloride (0.100 g, 0.569 mmol) and pyridine (0.14 ml, 1.73 mmol) in ethanol (5 ml) was stirred at reflux under nitrogen for 4 h and cooled to room temperature. The solution was concentrated to a pale yellow oil which was diluted with water. The suspension was extracted with dichloromethane (×3). The combined organic phases were washed with water and brine, dried over magnesium sulphate, filtered and concentrated to a white solid. The crude product was purified by column chromatography (SiO2), eluting with 95:5 petrol/ethyl acetate, to give 3′-fluoro-4′-methoxyacetophenone-O-3-fluorobenzyloxime (CP9-126) as a white solid (0.099 g, 90%), m.p. 67°.

reactant | 3-fluoro-4-methoxyacetophenone | 0.377 mmol, 0.063 g | CC(=O)C1=CC(=C(C=C1)OC)F | C9H9FO2
reactant | O-(3-fluorobenzyl)hydroxylamine hydrochloride | 0.569 mmol, 0.100 g | Cl.FC=1C=C(CON)C=CC1
reactant | pyridine | 1.73 mmol, 0.14 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3′-fluoro-4′-methoxyacetophenone-O-3-fluorobenzyloxime | 0.099 g, 90% | FC=1C=C(CON=C(C)C2=CC(=C(C=C2)OC)F)C=CC1 | C16H15F2NO2
